US09102692B2
In a separate reaction container, 7-fluoro-2-methyl-3H-benzimidazol-5-yl amine (100 mg, 0.44 mmol), lithium bis(trimethylsilyl) amide (190 mg, 1.1 mmol), and benzophenone hydrazone (94.3 mg, 0.48 mmol) were dissolved in N-methyl-morpholine (0.5 ml) under a nitrogen atmosphere. Then, the prepared solution containing the catalyst was added thereto. After deaeration, this was heated and stirred at 100° C. under a nitrogen atmosphere for two hours. The reaction mixture was cooled to room temperature, and then an aqueous solution of 6 M hydrochloric acid (0.5 ml) was added thereto. The organic layer was isolated, and concentrated under reduced pressure. Thus, crude N-benzhydrylidene-N′-(7-fluoro-2-methyl-1H-benzimidazol-5-yl)-hydrazine was obtained. The obtained crude product was used in subsequent reactions without being purified.

reactant | 7-fluoro-2-methyl-3H-benzimidazol-5-yl amine | 0.44 mmol, 100 mg | FC1=CC(=CC2=C1N=C(N2)C)N | C8H8FN3
reactant | lithium bis(trimethylsilyl) amide | 1.1 mmol, 190 mg | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzophenone hydrazone | 0.48 mmol, 94.3 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | hydrochloric acid | 6 M, 0.5 ml | Cl | ClH
solvent | N-methyl-morpholine | 0.5 ml | CN1CCOCC1 | C5H11NO
product | N-benzhydrylidene-N′-(7-fluoro-2-methyl-1H-benzimidazol-5-yl)-hydrazine | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC1=CC2=C(NC(=N2)C)C(=C1)F | C21H17FN4
